US08835462B2
To a solution of (3R,4R,5S)-3-benzyl-5-methyl-4-(triisopropylsilyloxy)-dihydrofuran-2(3H)-one (9.42 g, 26.0 mmol, 1.00 equiv) in CH2Cl2 (130 mL, 0.2 M) at −78° C. (dry ice/acetone bath) was added a 1 M solution of diisobutylaluminum hydride in hexane (DIBAL-H, 65.0 mL, 65.0 mmol, 2.50 equiv). The resulting colorless solution was removed from the cold bath and stirred at 23° C. for 18 h, cooled to 0° C. (ice water bath), and quenched with sat'd aqueous Rochelle's salt solution (200 mL) and Et2O (200 mL). The resulting slurry was stirred vigorously until the mixture became clear and biphasic (1.5 h) and the resulting phases were separated. The aqueous phase was extracted with Et2O (2×200 mL). The combined organic phases were dried over MgSO4, filtered, and concentrated to provide an oil. Purification by automated silica gel column chromatography (0-20% acetone in hexanes) provided (2S,3R,4S)-2-benzyl-3-(triisopropylsilyloxy)pentane-1,4-diol (6.78 g, 71.2%) as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.35-7.08 (m, 5H), 4.11-3.96 (m, 1H), 3.95-3.77 (m, 2H), 3.57-3.40 (m, 1H), 3.09 (d, J=2.5 Hz, 2H), 2.93-2.76 (m, 2H), 2.04 (dd, J=5.7, 2.9 Hz, 1H), 1.35 (d, J=6.6 Hz, 3H), 1.12 (d, J =3.6 Hz, 1H), 1.05 (s, 20H); 13C NMR (101 MHz, CDCl3) δ 141.12, 129.10, 128.42, 125.98, 71.23, 59.84, 48.58, 34.81, 19.10, 18.18, 12.72; ESIMS m/z 365.3 ([M−H]−).

reactant | (3R,4R,5S)-3-benzyl-5-methyl-4-(triisopropylsilyloxy)-dihydrofuran-2(3H)-one | 26.0 mmol, 9.42 g, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1C(O[C@H]([C@@H]1O[Si](C(C)C)(C(C)C)C(C)C)C)=O | C21H34O3Si
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane | 65.0 mmol, 65.0 mL, 2.50 equiv | CCCCCC | C6H14
solvent | CH2Cl2 | 0.2 M, 130 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4S)-2-benzyl-3-(triisopropylsilyloxy)pentane-1,4-diol | 6.78 g, 71.2% | C(C1=CC=CC=C1)[C@@H](CO)[C@H]([C@H](C)O)O[Si](C(C)C)(C(C)C)C(C)C | C21H38O3Si
